US04981865
A mixture of 4-acetylphenylisocyanate (27.5 g, 0.17 mol) and o-phthalicdicarboxaldehyde (25.0 g, 0.186 mol) is heated in an oil bath at 170°-175° C. for 4.0 hours under nitrogen atmosphere. On cooling the melt solidified which is pulverized and refluxed with CH2Cl2 and CH3OH and filtered to give 18.2 g (41.4%) of the desired 2-(4-acetylphenyl)-2,3-dihydro-1H-isoindole-1-one, mp 235°-237° C. The residue is recrystallized from DMF (1800 ml). Yield 13.0 g (29.6%), mp 236-239° C. (Jap. patent J5 7050-960; mp 243°-244° C. for the nonsolvated compound, prepared by a different route).

reactant | 4-acetylphenylisocyanate | 0.17 mol, 27.5 g | C(C)(=O)C1=CC=C(C=C1)N=C=O | C9H7NO2
reactant | o-phthalicdicarboxaldehyde | 0.186 mol, 25.0 g | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH3OH | CO | CH4O
product | 2-(4-acetylphenyl)-2,3-dihydro-1H-isoindole-1-one | 18.2 g, 41.4% | C(C)(=O)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1)=O | C16H13NO2
